US05583127
To a solution of 13.86 g of 3β-acetoxy-21-nitro-5β-pregn-20-en-14β-ol (Eberlein W. et al., Chem. Ber., 1974, 107, 1275) in 440 ml of diethyl ether and 440 ml of ethanol, 2.86 g NaBH4 were added at room temperature. After 1 hr. the mixture was neutralized with aqueous sodium dihydrogenphosphate and extracted with methylene chloride. The organic layer was washed with water, dried over anhydrous sodium sulfate and evaporated to dryness to give 13.40 g of 3β-acetoxy-21-nitro-5β-pregnane-14β-ol.

reactant | 3β-acetoxy-21-nitro-5β-pregn-20-en-14β-ol | 13.86 g | C(C)(=O)O[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@H](C=C[N+](=O)[O-])[C@]4(CC[C@@H]3[C@]2(CC1)C)C)O | C23H35NO5
reactant | NaBH4 | 2.86 g | [BH4-].[Na+]
reactant | sodium dihydrogenphosphate | P(=O)(O)(O)[O-].[Na+]
solvent | diethyl ether | 440 ml | C(C)OCC | C4H10O
solvent | ethanol | 440 ml | C(C)O | C2H6O
product | 3β-acetoxy-21-nitro-5β-pregnane-14β-ol | 13.40 g | C(C)(=O)O[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@H](CC[N+](=O)[O-])[C@]4(CC[C@@H]3[C@]2(CC1)C)C)O | C23H37NO5
